US05498630
N-Ethyl-2-(1,1-dimethylethoxy)benzamide
Potassium t-butoxide (12.25 g, 0.109 mol) was dissolved in pyridine (50 mL) and cuprous chloride (10.81 g, 0.109 mol) was added. The black suspension was stirred at RT for 30 min and N-ethyl-2-iodobenzamide (10.00 g, 36.4 mmol) dissolved in pyridine (20 mL) was added dropwise. The mixture was stirred at room temperature for 1 h and was poured in aq ammonium hydroxide and extracted with ether. The organic extracts were washed with 1N NaOH, brine, dried (MgSO4) and concentrated to afford a brown semi-solid. The crude product was purified by flash chromatography (ethyl acetate/hexanes) to afford the title compound as a light yellow solid (2.36 g, 29%). m.p. 34.5°-36° C.

reactant | Potassium t-butoxide | 0.109 mol, 12.25 g | CC(C)([O-])C.[K+]
reactant | N-ethyl-2-iodobenzamide | 36.4 mmol, 10.00 g | C(C)NC(C1=C(C=CC=C1)I)=O | C9H10INO
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
solvent | ammonium hydroxide | [OH-].[NH4+]
product | N-Ethyl-2-(1,1-dimethylethoxy)benzamide | 2.36 g, 29% | C(C)NC(C1=C(C=CC=C1)OC(C)(C)C)=O | C13H19NO2
